US04625032
3.02 g of 7-methyl-L-tryptophan methyl ester are dissolved in 20 ml of methanol, and 4 ml of 15% HCl-methanol are added thereto. The mixture is evaporated to remove the solvent. The residue is dissolved in 30 ml of methanol, and 2.86 g of 35% formalin are added thereto. The mixture is stirred at room temperature overnight. The mixture is evaporated to remove the solvent, and water is added to the residue. The aqueous solution is adjusted to pH 10 with 10% aqueous ammonia, and extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. The residue is recrystallized from chloroform. 2.0 g of methyl (3S)-8-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate are obtained as pale yellow prisms. Yield: 63%

reactant | 7-methyl-L-tryptophan methyl ester | 3.02 g | COC([C@@H](N)CC1=CNC2=C(C=CC=C12)C)=O | C13H16N2O2
reactant | HCl methanol | 4 ml | Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | methyl (3S)-8-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 2.0 g, Yield: 63% | CC=1C=CC=C2C=3C[C@H](NCC3NC12)C(=O)OC | C14H16N2O2
